US04343811
(c) 5-(2-Ethoxycarbonyl-5-benzyloxy-3-phenyl-1H-indole-1-yl)-valeric acid-ethylester
An amount of 23.5 g (63.3 m mole) of 5-benzyloxy-3-phenyl-1H-2-indole-carboxylic acid ethylester in absolute dimethylformamide was mixed with 3.0 g (63.3 m mole) of 50% sodium hydride. After 30 minutes, 13.2 g (63.3 m mole) of 5-bromo-valeric acid ethylester were added, and the mixture was stirred for three days. After evaporation, the residue obtained was chromatographed on silicagel (solvent: toluene/acetone (20.1)).

reactant | 5-benzyloxy-3-phenyl-1H-2-indole-carboxylic acid ethylester | 23.5 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C1=CC=CC=C1)OCC1=CC=CC=C1 | C24H21NO3
reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | 5-bromo-valeric acid ethylester | 13.2 g | C(C)OC(CCCCBr)=O | C7H13BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2-Ethoxycarbonyl-5-benzyloxy-3-phenyl-1H-indole-1-yl)-valeric acid-ethylester | C(C)OC(CCCCN1C(=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC)=O | C31H33NO5
